US08138197B2
Methyl 3-ethoxy-4-(1-methyl-pyrazol-4-yl)benzoate
1-Methyl-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (183 mg, 0.88 mmol), potassium phosphate (374 mg, 1.76 mmol) and dichloro(1,1-bis(diphenylphosphino)-ferrocene)palladium(II) dichloromethane adduct (9.6 mg, 0.012 mmol) were added to an acetonitrile solution (3 mL) of methyl 4-bromo-3-ethoxybenzoate (152 mg, 0.59 mmol), and stirred overnight at 100° C. The reaction liquid was cooled to room temperature, and water was added to it. This was extracted with ethyl acetate, washed with saturated saline water, and dried with magnesium sulfate. The solution was filtered, and concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=50/50) to obtain the title compound as a white solid.

reactant | 1-Methyl-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.88 mmol, 183 mg | CN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 1.76 mmol, 374 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | methyl 4-bromo-3-ethoxybenzoate | 0.59 mmol, 152 mg | BrC1=C(C=C(C(=O)OC)C=C1)OCC | C10H11BrO3
solvent | water | O | H2O
product | Methyl 3-ethoxy-4-(1-methyl-pyrazol-4-yl)benzoate | C(C)OC=1C=C(C(=O)OC)C=CC1C=1C=NN(C1)C | C14H16N2O3
